US04564640
1-(2,6 -dimethyl-3-hydroxyphenyl)-3-methylamidinourea hydrochloride
1-(3-benzyloxy-2,6-dimethylphenyl)-3-methylamidinourea hydrochloride (18.2 g) and 5% Pd/C (1.0 g) in absolute ethanol (200 ml) containing HCl/methanol (50 ml) are shaken under an atmosphere of H2 (50 psi) for 45 minutes. The reaction mixture is filtered through Celite and the filtrate is concentrated. in vacuo. The resulting solid is crystallized from methanol/acetonitrile to give after drying 12.3 grams of the desired amidinourea hydrochloride salt as a white powder, M.P. 224°-5° C. (dec).

reactant | 1-(3-benzyloxy-2,6-dimethylphenyl)-3-methylamidinourea hydrochloride | 18.2 g | Cl.C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)C)NC(=O)NC(NC)=N)C
reactant | HCl methanol | 50 ml | Cl.CO
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 1-(2,6 -dimethyl-3-hydroxyphenyl)-3-methylamidinourea hydrochloride | Cl.CC1=C(C(=CC=C1O)C)NC(=O)NC(NC)=N | InChI=1S/C11H16N4O2.ClH/c1-6-4-5-8(16)7(2)9(6)14-11(17)15-10(12)13-3;/h4-5,16H,1-3H3,(H4,12,13,14,15,17);1H
